US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{3-[(2-hydroxyphenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0505 g, 0.172 mmol) and 2-[(3-bromopropyl)oxy]phenol (0.0547 g, 0.236 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0675 g, 75.0%). EI-MS m/z 444(M+) Rt (1.91 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.172 mmol, 0.0505 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-[(3-bromopropyl)oxy]phenol | 0.236 mmol, 0.0547 g | BrCCCOC1=C(C=CC=C1)O | C9H11BrO2
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(2-hydroxyphenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0675 g, 75.0% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=C(C=CC=C2)O)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H33NO3.BrH/c31-26-14-7-8-15-27(26)33-23-9-19-30-20-16-28(17-21-30,18-22-30)29(32,24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-8,10-15,32H,9,16-23H2;1H
